US09233985B2
In an Ace pressure tube, a solution of tert-butyl 3-({(3R,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidin-1-yl}methyl)-7-chloro-3,4-dihydroisoquinoline-2(1 H)-carboxylate (280 mg, 0.415 mmol) was treated with concentrated HCl (8 mL) and stirred at room temperature. After 10 min the tube was sealed, and the mixture was heated to ˜118° C. for 16 h. After cooling to room temperature, the solution was carefully diluted with water (20 mL) and washed with methylene chloride (2×15 mL). The aqueous phase was concentrated under reduced pressure, and the resulting residue purified by reverse phase HPLC. Product fractions (mixture of diastereomers) were pooled and concentrated. The residue was reconstituted in 1 M HCl and re-concentrated. The resulting residue was diluted with deionized water and lyophilized to give (3R,4S)-3-amino-1-[(7-chloro-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl]-4-[3-(dihydroxyboryl)propyl]-pyrrolidine-3-carboxylic acid trihydrochloride (mixture of 2 diastereomers, each a racamate) (102 mg, 49%) as a faint yellow amorphous solid. 1H NMR (0.1M DCl in D2O, 400 MHz) δ 7.23 (m, 1 H), 7.15 (m, 2 H), 4.37 (s, 2 H), 4.00 (m, 3 H), 3.84 (m, 2 H), 3.69 (m, 1 H), 3.43 (m, 1 H), 3.22 (m, 1 H), 2.98 (m, 1 H), 2.68 (m, 1 H), 1.60 (m, 1 H), 1.25 (m, 3 H), 0.64 (m, 2 H). ESI+ MS found for C18H27BClN3O4 m/z 378.1 (M−18+H), 360.1 (M−36+H); ESI− MS m/z 376.2 (M−18−H).

reactant | tert-butyl 3-({(3R,4S)-3-acetamido-3-(tert-butylcarbamoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]pyrrolidin-1-yl}methyl)-7-chloro-3,4-dihydroisoquinoline-2(1 H)-carboxylate | 0.415 mmol, 280 mg | C(C)(=O)N[C@]1(CN(C[C@@H]1CCCB1OC(C(O1)(C)C)(C)C)CC1N(CC2=CC(=CC=C2C1)Cl)C(=O)OC(C)(C)C)C(NC(C)(C)C)=O | C35H56BClN4O6
reactant | HCl | 8 mL | Cl | ClH
reactant | water | 20 mL | O | H2O
product | (3R,4S)-3-amino-1-[(7-chloro-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl]-4-[3-(dihydroxyboryl)propyl]-pyrrolidine-3-carboxylic acid trihydrochloride | Cl.Cl.Cl.N[C@]1(CN(C[C@@H]1CCCB(O)O)CC1NCC2=CC(=CC=C2C1)Cl)C(=O)O | InChI=1S/C18H27BClN3O4.3ClH/c20-15-4-3-12-7-16(22-8-13(12)6-15)10-23-9-14(2-1-5-19(26)27)18(21,11-23)17(24)25;;;/h3-4,6,14,16,22,26-27H,1-2,5,7-11,21H2,(H,24,25);3*1H/t14-,16?,18-;;;/m0.../s1
